US08357693B2
A suspension of 2-(3-nitrophenyl)-4-oxo-3,4-dihydroquinazolin-6-yl acetate (3.30 g, 10.1 mmol) in SOCl2 (65 mL) was added DMF (2 mL). The mixture was refluxed for 2.5 h, upon which the volatiles were removed in vacuo. The residue was taken up in CHCl3 (450 mL) and washed with sat NaHCO3 (200 ml) and water (200 mL). The organic layer was dried (Na2SO4), filtered and concentrated in vacuo to give the product 4-chloro-2-(3-nitrophenyl)quinazolin-6-yl acetate (3.53 g, 10.3 mmol). HPLC retention time 9.748 min.

reactant | 2-(3-nitrophenyl)-4-oxo-3,4-dihydroquinazolin-6-yl acetate | 10.1 mmol, 3.30 g | C(C)(=O)OC=1C=C2C(NC(=NC2=CC1)C1=CC(=CC=C1)[N+](=O)[O-])=O | C16H11N3O5
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
reactant | SOCl2 | 65 mL | O=S(Cl)Cl | Cl2OS
product | 4-chloro-2-(3-nitrophenyl)quinazolin-6-yl acetate | 10.3 mmol, 3.53 g | C(C)(=O)OC=1C=C2C(=NC(=NC2=CC1)C1=CC(=CC=C1)[N+](=O)[O-])Cl | C16H10ClN3O4
